Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Abnormal outpatient labs. 
 
Major Surgical or Invasive Procedure:
___: Upper endoscopy with EUS 

 
History of Present Illness:
This is a ___ female with a PMHx significant for alcohol 
abuse and newly diagnosed liver disease who is presenting with 
abdominal pain. She reports that over the course of the last 
couple of months, she and her family noted that she was becoming 
jaundiced. Because of this, she presented to ___ in 
early ___ and was found to have "multi-organ failure" 
(discharged ___. After discharge, she was attempting to 
establish care at ___ and had outpatient labs drawn 
which showed elevated alk phos and WBC to 19, so she was 
referred to the ED by Dr. ___. She reports that she has been 
experiencing ___ days of RUQ abdominal pain. She also reports 
intermittent fevers that she developed during her previous 
hospitalization and have recurred daily. She denies nausea, 
vomiting, diarrhea, constipation, diarrhea, dysuria. Of note, 
her last drink was ___.  
 
 In the ED, initial vitals were: 98.4 62 141/84 16 100% RA  
 - Exam: Jaundiced female. No acute distress. Mild RUQ 
tenderness with no rebound or guarding. Normal cardiac or 
pulmonary exams. Distended abdomen.  
 - Labs significant for:  
 WBC 18.6 Hgb 10.9 Hct 34.6 Plt 585  
 N: 81.8 L: 9.0 M: 6.6 E: 0.9 Bas: 0.6  
 Na 134 K 3.7 Cl 96 HCO3 20 BUN 9 Cr 1.2  
 ALT: 91 AST: 184 AP: 249 Tbili: 13.4 Dbili: 8.6 Alb: 3.6 Lip: 
30  
 ___: 13.4 PTT: 40.1 INR: 1.2  
 Lactate 1.5  
 Serum Tox negative  
 UA negative  
 Urine Tox negative  
 - Imaging:  
 RUQ US: Echogenic liver consistent with steatosis. Other forms 
of liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be excluded on the basis of this examination. 
Common bile duct is minimally dilated up to 7 mm. There is no 
evidence of cholelithiasis or visualized common bile duct 
stones. However, a more distal common bile duct stone cannot be 
excluded on this examination. Mild splenomegaly.  
 - Patient given: Piperacillin-Tazobactam and Lorazepam  

 - Vitals on transfer: 99.0 76 112/63 16 95% RA  

 On the floor, patient reports that she feels well other than 
mild abdominal pain.  
 Review of systems:  
 (+) Per HPI  
 (-) Denies recent weight loss or gain. denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies cough, shortness of 
breath. Denies chest pain or tightness, palpitations. Denies 
nausea, vomiting, diarrhea, constipation. No recent change in 
bowel or bladder habits. No dysuria. Denies arthralgias or 
myalgias.  
 
Past Medical History:
Alcoholic hepatitis 
Alcohol use disorder 
Asthma 
Depression/anxiety 
ADHD 

 
Social History:
___
Family History:
 - Grandfather and ___ with hemochromatosis  
 - Denies history of premature CAD or stroke.  
 
Physical Exam:
=====================
ADMISSION PHYSICAL 
=====================
 
Vital Signs: 98.2 118/71 76 20 94% RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae icteric, MMM, oropharynx clear, EOMI, PERRL  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, bowel sounds present, non-tender, distended, + 
hepatosplenomegaly  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: no asterixis  
 Skin: + spider angiomas  

=====================
DISCHARGE PHYSICAL 
=====================

Vital Signs:  100.3 107/66 81 96%RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae icteric, MMM, oropharynx clear, neck supple, JVP
not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Abdomen: soft, non-tender, +distended with flank dullness, bowel
sounds present, no rebound tenderness or guarding, no
organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: exocoriations on abd
Neuro: no asterixis  
 
Pertinent Results:
====================
ADMISSION LABS 
====================

___ 07:00PM BLOOD WBC-18.6* RBC-3.19* Hgb-10.9* Hct-34.6 
MCV-109* MCH-34.2* MCHC-31.5* RDW-14.0 RDWSD-55.7* Plt ___
___ 07:00PM BLOOD Neuts-81.8* Lymphs-9.0* Monos-6.6 
Eos-0.9* Baso-0.6 Im ___ AbsNeut-15.16* AbsLymp-1.67 
AbsMono-1.22* AbsEos-0.17 AbsBaso-0.12*
___ 08:54PM BLOOD ___ PTT-40.1* ___
___ 07:00PM BLOOD Glucose-97 UreaN-9 Creat-1.2* Na-134 
K-3.7 Cl-96 HCO3-20* AnGap-22*
___ 07:00PM BLOOD ALT-91* AST-184* AlkPhos-249* 
TotBili-13.4* DirBili-8.6* IndBili-4.8
___ 07:00PM BLOOD Lipase-30
___ 07:00PM BLOOD Albumin-3.6 Iron-54
___ 07:00PM BLOOD calTIBC-276 Ferritn-929* TRF-212
___ 08:18AM BLOOD VitB12-430 Folate->20
___ 07:00PM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative HAV Ab-Negative IgM HAV-Negative
___ 11:48PM BLOOD AMA-NEGATIVE
___ 11:48PM BLOOD ___
___ 08:18AM BLOOD IgG-721 IgA-198 IgM-99
___ 07:00PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 09:35PM BLOOD Lactate-1.5

___ 10:31PM URINE Color-Yellow Appear-Hazy Sp ___
___ 10:31PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 10:31PM URINE UCG-NEGATIVE
___ 10:31PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

==============================
DISCHARGE LABS 
==============================

___ 06:05AM BLOOD WBC-12.7* RBC-2.77* Hgb-9.5* Hct-30.3* 
MCV-109* MCH-34.3* MCHC-31.4* RDW-13.6 RDWSD-54.2* Plt ___
___ 06:05AM BLOOD Neuts-76.1* Lymphs-12.3* Monos-8.1 
Eos-1.7 Baso-0.7 Im ___ AbsNeut-9.63* AbsLymp-1.55 
AbsMono-1.03* AbsEos-0.21 AbsBaso-0.09*
___ 06:05AM BLOOD ___ PTT-37.3* ___
___ 06:05AM BLOOD Ret Aut-4.1* Abs Ret-0.11*
___ 06:05AM BLOOD Glucose-115* UreaN-8 Creat-1.1 Na-139 
K-3.2* Cl-103 HCO3-22 AnGap-17
___ 06:05AM BLOOD ALT-70* AST-140* AlkPhos-188* 
TotBili-8.8*
___ 06:05AM BLOOD Calcium-8.3* Phos-3.1 Mg-1.9
___ 06:05AM BLOOD TSH-4.0

==============================
STUDIES/PROCEDURES 
==============================

___ Abdominal ultrasound 
 
LIVER: The liver is diffusely echogenic. The contour of the 
liver is smooth.
There is no focal liver mass. The main portal vein is patent 
with hepatopetal
flow. There is no ascites.
 
BILE DUCTS: There is no intrahepatic biliary dilation. The CHD 
measures 7 mm.
 
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening. 
There is no visualized choledocholithiasis.
 
PANCREAS: The imaged portion of the pancreas appears within 
normal limits,
without masses or pancreatic ductal dilation, with portions of 
the pancreatic
tail obscured by overlying bowel gas.
 
SPLEEN:  Normal echogenicity, measuring 13.6 cm.
 
KIDNEYS:  Limited views of the right kidney show no 
hydronephrosis.
 
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal
limits.
 
IMPRESSION: 
 
Echogenic liver consistent with steatosis. Other forms of liver 
disease
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded
on the basis of this examination.
 
Common bile duct is minimally dilated up to 7 mm.  There is no 
evidence of
cholelithiasis or visualized common bile duct stones.  However, 
a more distal
common bile duct stone cannot be excluded on this examination.  
Consider MRCP
for further assesment of the common bile duct.
 
Mild splenomegaly.

___ Endoscopic ultrasound 

Findings:
Esophagus:Minimal exam of the esophagus was normal with the 
echoendoscope.
Stomach:Limited exam of the stomach was normal with the 
echoendoscope.
Duodenum:Limited exam of the duodenum was normal with the 
echoendoscope.

EUS was performed using a linear echoendoscope at ___ MHz 
frequency: The head and uncinate pancreas were imaged from the 
duodenal bulb and the second / third duodenum. The body and tail 
[partially] were imaged from the gastric body and 
fundus.Pancreas parenchyma: The pancreas showed parenchymal 
changes of lobularity and hyperechoic strands.Pancreas duct: The 
duct was normal in echotexture and contour. No intra-ductal 
stones were noted. No dilated side-branches were noted.Bile 
duct: The bile duct was imaged at the level of the 
porta-hepatis, head of the pancreas and ampulla. The bile duct 
was normal in appearance. No intrinsic stones or sludge were 
noted. The bile duct and the pancreatic duct were imaged within 
the ampulla and appeared normal. 

Impression:
EUS was performed using a linear echoendoscope at ___ MHz 
frequency:
The head and uncinate pancreas were imaged from the duodenal 
bulb and the second / third duodenum.
The body and tail [partially] were imaged from the gastric body 
and fundus.
Pancreas parenchyma:
The pancreas showed parenchymal changes of lobularity and 
hyperechoic strands.
Pancreas duct:
The duct was normal in echotexture and contour.
No intra-ductal stones were noted.
No dilated side-branches were noted.
Bile duct:
The bile duct was imaged at the level of the porta-hepatis, head 
of the pancreas and ampulla.
The bile duct was normal in appearance.
No intrinsic stones or sludge were noted.
The bile duct and the pancreatic duct were imaged within the 
ampulla and appeared normal.
Otherwise normal upper eus to third part of the duodenum

=======================
MICRO 
=======================

___ 10:31 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 8:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:15 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 

 
Brief Hospital Course:
***TRANSITIONAL ISSUES***
#History of alcohol use disorder, please make sure no longer 
drinking and has a plan in place to increase chance for 
abstinence. 
#Follow up with Dr. ___ on ___, in ___.
#Recent diagnosis of alcoholic hepatitis, admitted to ___ 
___.
#Family history of hemochromatosis, and Ferritin 929 during 
admission. Will need further work up.
#Not taking previously prescribed psychiatric medications, she 
is in touch with her mental health team frequently and they are 
on board with this plan per patient. Office closed, so was 
unable to make follow up appointment. Asked pt to follow up with 
mental health as soon as possible (___)
#Contact: ___ (Father) ___ 
#Code: full code (confirmed) 

___ is a ___ year old female with a history of alcohol 
use disorder recently complicated by alcoholic hepatitis.

She was admitted to ___ from ___ to ___ and 
given a diagnosis of alcoholic hepatitis. She was then admitted 
to ___ on ___ after her outpatient follow up labs 
indicated liver dysfunction in the setting of some abdominal 
pain. Of note, when compared with her discharge labs from ___ 
___, the overall trend of her labs was improving, though her 
WBC was slightly elevated. A routine infectious workup was 
unremarkable and her pain has resolved by the time of admission. 
An ultrasound of her abdomen revealed a mildly dilated common 
bile duct, for which an endoscopic ultrasound was performed for 
further investigation. This too was unremarkable. Our liver team 
evaluated her and believed her clinical picture to be consistent 
with resolving alcoholic hepatitis. Her LFTs continued to 
improve during her admission. She had a standard hepatitis 
workup which was negative except a ferritin of 929 in the 
setting of a positive family history of hemochromatosis. Follow 
up was arranged with Dr. ___, on ___.

Discharge LFTs:
Bili 8.8
AST 140
ALT 70
AlkPhos 188
INR 1.2

We spoke with the patient extensively about complete alcohol 
cessation moving forward and she seems to have good insight into 
this recommendation and plans to abstain from alcohol use. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Thiamine 100 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. FoLIC Acid 1 mg PO DAILY 
4. Lactulose 15 mL PO BID 
5. DiphenhydrAMINE 25 mg PO BID itching 
6. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 

 
Discharge Medications:
1.  DiphenhydrAMINE 25 mg PO BID itching  
2.  FoLIC Acid 1 mg PO DAILY  
3.  Lactulose 15 mL PO BID  
4.  Multivitamins 1 TAB PO DAILY  
5.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: alcoholic hepatitis

Secondary diagnosis: alcohol use disorder, macrocytic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

=========================================
Why did you come to the hospital? 
=========================================
-Your outpatient labs indicated liver dysfunction

===================================
What happened during your stay?
===================================
-You were seen by our liver doctors who thought your abnormal 
numbers were related to resolving alcohol-induced hepatitis 
(inflammation of the liver caused by alcohol). This is the same 
diagnosis you were given at ___ and it may take 
some weeks before your numbers return to baseline.  
-We performed an endoscopy which was normal 
-We spoke extensively about complete cessation of alcohol

====================================================
What needs to happen when you leave the hospital?
====================================================
-Stop drinking alcohol completely 
-Follow up closely with your liver doctors 
-___ up closely with your mental health team 
 
Followup Instructions:
___